US07049325B2
A solution of 280 mg (1 mmole) of 5-bromo-6-methoxy-2-methylsulfanyl-quinoline in 4 mL THF was cooled to −78° C. and treated with 1.5 mL of 1.5 M t-BuLi in pentane. After stirring for 1.5 hours, 1.5 eq of p-methoxybenzaldehyde was added and the reaction allowed to warm to room temperature. After partitioning between EtOAc and water the product was purified by chromatography on silica gel (1:3 EtOAc/hexane) to afford (6-methoxy-2-methylsulfanyl-quinolin-5-yl)-(4-methoxy-phenyl)methanol (120 mg, 35%).

reactant | 5-bromo-6-methoxy-2-methylsulfanyl-quinoline | 1 mmole, 280 mg | BrC1=C2C=CC(=NC2=CC=C1OC)SC | C11H10BrNOS
reactant | t-BuLi | 1.5 M, 1.5 mL | [Li]C(C)(C)C
reactant | p-methoxybenzaldehyde | 1.5 eq | COC1=CC=C(C=O)C=C1 | C8H8O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | (6-methoxy-2-methylsulfanyl-quinolin-5-yl)-(4-methoxy-phenyl)methanol | 120 mg, 35% | COC=1C(=C2C=CC(=NC2=CC1)SC)C(O)C1=CC=C(C=C1)OC | C19H19NO3S
